US08426420B2
iv) 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 100 mg 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 5 ml DMF were added 24 μl DIPEA, 53 mg HATU and 12 μl cyclobutylamine. After stirring for 4 h the mixture was dissolved in ethyl acetate and washed with aqueous LiCl (4% w/w) and saturated aqueous NaHCO3. The solvent was evaporated, the residue dissolved in 1.5 ml dichloromethane and treated with 300 μl TFA. After stirring for 34 h the solvents were removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 43 mg MS (ES+): m/e=718.

reactant | 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O)C1=CC=CC=C1)=O | C33H42F2N6O10
reactant | DIPEA | 24 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 53 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclobutylamine | 12 μl | C1(CCC1)N | C4H9N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CC(C1)(F)F)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C33H41F2N7O9
